US09227963B2
2-(tert-butoxycarbonyl)-1-methyl-1,2,3,4-tetrahydroisoquinoline-8-carboxylic acid
To a solution of 2-(tert-butoxycarbonyl)-1,2,3,4-tetrahydroisoquinoline-8-carboxylic acid (2.25 g) and tetramethylethylenediamine (1.347 mL) in tetrahydrofuran (40 mL) was added dropwise t-butyllithium (1.6M, 15.21 mL) at −78° C. The mixture was stirred at −78° C. for 40 minutes. To the resulting mixture was added iodomethane (5.07 mL) dropwise and the mixture was stirred at −78° C. for 3 hours, followed by stirring at room temperature overnight. The reaction mixture was quenched with saturated ammonium chloride. The reaction mixture was extracted with ethyl acetate (150 mL), washed with brine (40 mL×3), dried over Na2SO4, filtered, and concentrated. The crude product was purified by flash chromatography (silica gel, 10% methanol/dichloromethane).

reactant | 2-(tert-butoxycarbonyl)-1,2,3,4-tetrahydroisoquinoline-8-carboxylic acid | 2.25 g | C(C)(C)(C)OC(=O)N1CC2=C(C=CC=C2CC1)C(=O)O | C15H19NO4
reactant | tetramethylethylenediamine | 1.347 mL | CN(CCN(C)C)C | C6H16N2
reactant | t-butyllithium | 1.6M, 15.21 mL | C(C)(C)(C)[Li]
reactant | iodomethane | 5.07 mL | IC | CH3I
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 2-(tert-butoxycarbonyl)-1-methyl-1,2,3,4-tetrahydroisoquinoline-8-carboxylic acid | C(C)(C)(C)OC(=O)N1C(C2=C(C=CC=C2CC1)C(=O)O)C | C16H21NO4
